US04489003
2.0 g (5.4 mmol) of tert.butyl 8-chloro-11,13a-dihydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 0.5 g (2.1 mmol) of tetraethyl orthotitanate and 25 ml of hydroxymethyl-cyclopropane are stirred at 130° for 23 hours, portions each of about 2 ml of solvent being distilled off in vacuo three times. The mixture is subsequently evaporated in vacuo, the residue is treated with water and chloroform, stirred for 30 minutes, filtered over siliceous earth and the organic phase is separated. The aqueous phase is extracted twice with chloroform, the organic extracts are washed once with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate/n-hexane, there is obtained cyclopropylmethyl 8-chloro-11,13a-dihydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 189°-190°.

reactant | tert.butyl 8-chloro-11,13a-dihydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 5.4 mmol, 2.0 g | ClC1=CC=CC2=C1C(N1C(C=3N2C=NC3C(=O)OC(C)(C)C)C=CC1)=O | C19H18ClN3O3
reactant | hydroxymethyl-cyclopropane | 25 ml | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 2.1 mmol, 0.5 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl 8-chloro-11,13a-dihydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1C(C=3N2C=NC3C(=O)OCC3CC3)C=CC1)=O | C19H16ClN3O3
